US04788185
7β-[2-(5-Amino-1,2,4-thiadiazol-3-yl)-2(Z)-ethoxyiminoacetamido]-3-(3-oxobutyryloxymethyl)-3-cephem-4-carboxylic acid
In 200 ml of dichloromethane is suspended 11 g of 7β-amino-3(3-oxobutyryloxymethyl)-3-cephem-4-carboxylic acid. To the suspension is added 14 g of bistrimethylsilylacetamide and the mixture is stirred at room temperature until complete dissolution and cooled in an ice-water bath. To this solution, 14 g of 2-(5-amino-1,2,4-thiadiazol-3-yl)-2(Z)-ethoxyiminoacetyl chloride is added and the mixture is stirred for a while, to which 6 g of dimethylacetamide is added. The whole mixture is stirred with ice-cooling for 60 minutes. The dichloromethane is evaporated off and the residue is dissolved in methyl ethyl ketone. The solution is washed with water and dried. The solvent is then evaporated off and diethyl ether is added to the residue to give a fine precipitate, which is collected by filtration, giving 12.5 g of the above-identified compound.

reactant | 7β-amino-3(3-oxobutyryloxymethyl)-3-cephem-4-carboxylic acid | 11 g | N[C@H]1[C@@H]2N(C(=C(CS2)COC(CC(C)=O)=O)C(=O)O)C1=O | C12H14N2O6S
reactant | bistrimethylsilylacetamide | 14 g | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
reactant | 2-(5-amino-1,2,4-thiadiazol-3-yl)-2(Z)-ethoxyiminoacetyl chloride | 14 g | NC1=NC(=NS1)/C(/C(=O)Cl)=N/OCC | C6H7ClN4O2S
reactant | dimethylacetamide | 6 g | CC(=O)N(C)C | C4H9NO
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 7β-[2-(5-Amino-1,2,4-thiadiazol-3-yl)-2(Z)-ethoxyiminoacetamido]-3-(3-oxobutyryloxymethyl)-3-cephem-4-carboxylic acid | 12.5 g | NC1=NC(=NS1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)COC(CC(C)=O)=O)C(=O)O)C1=O)=N/OCC | C18H20N6O8S2
